US07294623B2
A solution of 3-fluorophenylmagnesium bromide (0.5M, 50 ml, 25 mmol) was added dropwise to a stirred solution of 4-benzyl-mopholin-2-carbonitrile (4.59 g, 22.7 mmol) in diethyl ether (50 ml) at 0° C. under nitrogen. After 45 min at 0 C. the mixture was allowed to warm to room temperature for 30 min then recooled and quenched by the addition of aqueous hydrochloric acid (5M, 40 ml)—caution exothermic. After 30 min at room temperature, the acidic mixture was basified with sodium hydroxide (5M, 60 ml) and extracted with ethyl acetate (3×150 ml). The combined extracts were washed with brine solution, dried, filtered and concentrated in vacuo to give (+/−)-(4-benzyl-morpholin-2-yl)-(3-fluorophenyl)methanone (6.9 g) as a yellow oil.

reactant | 3-fluorophenylmagnesium bromide | 25 mmol, 0.5M, 50 ml | FC=1C=C(C=CC1)[Mg]Br
reactant | 4-benzyl-mopholin-2-carbonitrile | 22.7 mmol, 4.59 g | C(C1=CC=CC=C1)N1CC(OCC1)C#N | C12H14N2O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (+/−)-(4-benzyl-morpholin-2-yl)-(3-fluorophenyl)methanone | 6.9 g | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)C1=CC(=CC=C1)F | C18H18FNO2
